US09447090B2
To a mixture of 150 mg of methyl 4-[({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)methyl]piperidine-4-carboxylate dihydrochloride, 150 μl of triethylamine, and 5 ml of dichloromethane was added 25 μl of acetyl chloride under ice-cooling, followed by stirring at room temperature for 2 hours. To the reaction mixture were added water and ethyl acetate to carry out a layer separation operation. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 135 mg of methyl 1-acetyl-4-[({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)methyl]piperidine-4-carboxylate.

reactant | methyl 4-[({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)methyl]piperidine-4-carboxylate dihydrochloride | 150 mg | Cl.Cl.C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)NCC2(CCNCC2)C(=O)OC
reactant | triethylamine | 150 μl | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | acetyl chloride | 25 μl | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | methyl 1-acetyl-4-[({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)methyl]piperidine-4-carboxylate | 135 mg | C(C)(=O)N1CCC(CC1)(C(=O)OC)CNC(=O)C1=C(N=C2N1C=CC=C2OCC2CCCCC2)C | C26H36N4O5
